US07772246B2
To a solution of (2S)-1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol (B-1-3) (1 g, 2.58 mmol) in toluene (30 mL) and EtOH (10 mL) were added N,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (B-4-3) (2 g, 6.3 mmol in theory) and 2 N aq. Na2CO3 (4 mL). The resulting mixture was degassed under N2 for 2 minutes. Then Pd(PPh3)4 (0.3 g, 0.26 mmol) was added and the mixture was degassed again. The reaction was heated to 80-90° C. and stirred overnight. MS showed the reaction was complete and the mixture was cooled. The organic layer was separated and concentrated. The residue was purified by prep. HPLC to afford (2S)-1-(4-(1-isopropyl-3-(5-methyl-6-(methylamino)pyridin-3-yl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol (B-4) (0.167 g, 16.98%) as a light yellow solid.

reactant | (2S)-1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol | 2.58 mmol, 1 g | IC1=NN(C=C1C1=NC(=NC=C1)NC[C@H](C)O)C(C)C | C13H18IN5O
reactant | N,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 6.3 mmol, 2 g | CNC1=NC=C(C=C1C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O2
reactant | Na2CO3 | 2 N, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.26 mmol, 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-1-(4-(1-isopropyl-3-(5-methyl-6-(methylamino)pyridin-3-yl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol | 0.167 g, 16.98% | C(C)(C)N1N=C(C(=C1)C1=NC(=NC=C1)NC[C@H](C)O)C=1C=NC(=C(C1)C)NC | C20H27N7O
